* C:\Users\sergi\OneDrive\Documents\Universidad\Digital\Lab1.asc
* Generated by LTspice 24.1.7 for Windows.
V1 VinHCT 0 PULSE(0 5 0s 0s 0s 0.000005s 0.00001s)
V2 Vcc 0 5
V3 VinLS 0 PULSE(0 5 0s 0s 0s 0.000005s 0.00001s)
X§U1 VoutHCT N001 Vcc 0 SN74HCT04
X§U2 VoutLS N002 Vcc 0 SN74LS04
R1 N001 VinHCT 1R
R2 N002 VinLS 1R
.tran 0.00005s
.meas tran vmax max v(vouthct)
.meas tran t10a when v(vouthct)=0.1*vmax rise=1
.meas tran t90a when v(vouthct)=0.9*vmax rise=1
.meas tran t10b when v(vouthct)=0.1*vmax fall=1
.meas tran t90b when v(vouthct)=0.9*vmax fall=1
.meas trise param t90a-t10a
.meas tfall param t90b-t10b
.meas tran vmax2 max v(voutls)
.meas tran t10a2 when v(voutls)=0.1*vmax2 rise=1
.meas tran t90a2 when v(voutls)=0.9*vmax2 rise=1
.meas tran t10b2 when v(voutls)=0.1*vmax2 fall=1
.meas tran t90b2 when v(voutls)=0.9*vmax2 fall=1
.meas t2rise param t90a2-t10a2
.meas t2fall param t90b2-t10b2
.lib C:\Users\sergi\Downloads\SN74LS04.lib
.lib C:\Users\sergi\OneDrive\Documents\Universidad\Digital\SN74HCT04.cir
.backanno
.end
